US09056859B2
A mixture of diethyl (2,5-difluoro-4-nitrophenyl)propanedioate (700 mg, 2.2 mmol) with HOAc (10 mL) and HCl (6 N, 10 mL) was heated under N2 at 120° C. for 2.5 hours and then allowed to cool and stirred overnight. Most of the solvent was removed by evaporation and then water was added. The mixture was extracted with EtOAc. The organic layer washed with brine, dried over anhydrous Na2SO4 and concentrated to give (2,5-difluoro-4-nitrophenyl)acetic acid.

reactant | diethyl (2,5-difluoro-4-nitrophenyl)propanedioate | 2.2 mmol, 700 mg | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(C(=O)OCC)C(=O)OCC | C13H13F2NO6
reactant | HCl | 6 N, 10 mL | Cl | ClH
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | (2,5-difluoro-4-nitrophenyl)acetic acid | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
